US08603728B2
3-(Acetoacetyloxy)adamantyl methacrylate (AAHAMA) was prepared according to the following procedure. 65.6 g of 3-hydroxyadamantan-1-yl methacrylate (HAMA) (277.6 mmol) and 42.1 g of 95% pure 2,2,6-trimethyl-4H-1,3-dioxin-4-one (277.6 mmol) were mixed with 0.2 g of CYANOX® 1790 inhibitor in 400 ml of toluene. After refluxing (110° C.) for 4 hours, the reaction was cooled, 10 g of activated charcoal and 400 ml of toluene were added, and the mixture stirred overnight. After filtration, another 10 g of activated charcoal was added, and the mixture stirred for an additional 12 h., then filtered. The filtrate was concentrated and run through a silica gel flash column with ethyl acetate as eluant. The solvent was then removed to yield 80 g (90%) of 3-acetoacetoxyadamantan-1-yl methacrylate was obtained.

reactant | 3-hydroxyadamantan-1-yl methacrylate | 277.6 mmol, 65.6 g | C(C(=C)C)(=O)OC12CC3(CC(CC(C1)C3)C2)O | C14H20O3
reactant | 2,2,6-trimethyl-4H-1,3-dioxin-4-one | 277.6 mmol, 42.1 g | CC1(OC(=CC(O1)=O)C)C | C7H10O3
reactant | charcoal | 10 g | C | CH4
solvent | toluene | 400 ml | C1(=CC=CC=C1)C | C7H8
catalyst | CYANOX | 0.2 g | COP(=S)(OC)OC1=CC=C(C=C1)C#N | C9H10NO3PS
solvent | toluene | 400 ml | C1(=CC=CC=C1)C | C7H8
product | 3-acetoacetoxyadamantan-1-yl methacrylate | 80 g, 90% | C(C(=C)C)(=O)OC12CC3(CC(CC(C1)C3)C2)OC(CC(=O)C)=O | C18H24O5
